US07138425B2
a) 2-(3-Nitro-4-methoxyphenyl)-5-(2-methoxyphenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole (200 mg, 0.57 mmol) and 2-methoxyphenylboronic acid (130 mg, 0.85 mmol) the subtitle compound was obtained (163 mg, 76%). 1H NMR (CDCl3) δ 8.75(d, 1H), 8.45(dd, 1H), 7.93(d, 1H), 7.61(d, 1H), 7.54(dd, 1H), 7.39–7.34(m, 2H), 7.25(d, 1H), 7.09–7.01(m, 2H), 4.07(s, 3H), 3.83(s, 3H).

reactant | 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole | 0.57 mmol, 200 mg | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H9BrN2O4
reactant | 2-methoxyphenylboronic acid | 0.85 mmol, 130 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
product | 2-(3-Nitro-4-methoxyphenyl)-5-(2-methoxyphenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=C(C=CC=C2)OC | C21H16N2O5
